US08278441B2
(1-(3-Bromophenyl)but-3-enyloxy)(tert-butyl)dimethylsilane
A solution of 1-(3-bromophenyl)but-3-en-1-ol (17.0 g, 74.9 mmol), 1H-imidazole (11.8 g, 172.2 mmol) and tert-butyldimethylchlorosilane (13.9 g, 89.8 mmol) in DMF (40 mL) is stirred at room temperature for 2 hours. The mixture is diluted with dichloromethane and is washed sequentially with water and saturated ammonium chloride aqueous solution. The organic layer is dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a residue. The crude product is purified by silica gel chromatography eluting with 5% ethyl acetate in hexanes to give the title compound as racemic mixture (23.9 g, 94%). 1H NMR (400 MHz, CDCl3) δ 7.44 (s, 1H), 7.34 (d, 1H, J=7.5 Hz), 7.24-7.14 (m, 2H), 5.78-5.70 (m, 1H), 5.02-4.97 (m, 2H), 4.65-4.62 (m, 1H), 2.45-2.31 (m, 2H), 0.87 (s, 9H), 0.02 (s, 3H), 0.12 (s, 3H).

reactant | 1-(3-bromophenyl)but-3-en-1-ol | 74.9 mmol, 17.0 g | BrC=1C=C(C=CC1)C(CC=C)O | C10H11BrO
reactant | 1H-imidazole | 172.2 mmol, 11.8 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 89.8 mmol, 13.9 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1-(3-Bromophenyl)but-3-enyloxy)(tert-butyl)dimethylsilane | BrC=1C=C(C=CC1)C(CC=C)O[Si](C)(C)C(C)(C)C | C16H25BrOSi
